US09422298B2
A mixture of N-(5-bromo-2-chloropyridin-3-yl)-2,4-difluorobenzenesulfonamide (7.54 g, 19.7 mmol), potassium acetate (7.72 g, 79.0 mmol), bis(pinacolato)diboron (5.99 g, 23.6 mmol) and PdCl2(dppf)-CH2Cl2Adduct (0.80 g, 0.98 mmol) in dioxane (40 mL) was refluxed for 3 h. After cooled to room temperature, the reaction mixture was filtered through a Celite pad and washed with CH2Cl12 The filtrate was diluted with water and extracted with CH2Cl2. The combined organic layers were washed with brine, dried over anhydrous Na2SO4, filtered and concentrated in vacuo. The residue was purified by column chromatography (Hexane:EtOAc=5:1) to give N-(2-chloro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-yl)-2,4-difluorobenzenesulfonamide (6.50 g, 77%) as a brown oil. 1H-NMR (CDCl3, Varian 400 MHz) δ 1.30 (12H, s), 6.88-6.95 (2H, m), 7.79-7.85 (1H, m), 8.20 (1H, d, J=1.6 Hz), 8.40 (1H, d, J=1.6 Hz). NH peak was not observed.

reactant | N-(5-bromo-2-chloropyridin-3-yl)-2,4-difluorobenzenesulfonamide | 19.7 mmol, 7.54 g | BrC=1C=C(C(=NC1)Cl)NS(=O)(=O)C1=C(C=C(C=C1)F)F | C11H6BrClF2N2O2S
reactant | potassium acetate | 79.0 mmol, 7.72 g | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 23.6 mmol, 5.99 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
solvent | dioxane | 40 mL | O1CCOCC1 | C4H8O2
product | N-(2-chloro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-yl)-2,4-difluorobenzenesulfonamide | 6.50 g, 77% | ClC1=NC=C(C=C1NS(=O)(=O)C1=C(C=C(C=C1)F)F)B1OC(C(O1)(C)C)(C)C | C17H18BClF2N2O4S
